US07910741B2
N-(4-(4-bis(2-chloroethyl)aminomethylphenoxy)phenyl)methanesulfonamide
To a solution of 4-(4-methylsulfonylaminophenoxy)benzaldehyde (1.27 g) in dimethylformamide (5 mL)/acetic acid (0.5 mL) was added N,N-bis(2-chloroethyl)amine (856 mg) and the solution was stirred at room temperature for 10 minutes. Sodium triacetoxyborohydride (31.39 g) was added to the solution, which was stirred at room temperature overnight. Water was added to the reaction mixture, which was extracted with ethyl acetate three times. The extract was washed with brine (30 mL), dried over anhydrous sodium sulfate and concentrated. The obtained residue purified by column chromatography on silica gel (hexane:ethyl acetate=5:1) to give the title compound (790 mg) having the following physical data.

reactant | 4-(4-methylsulfonylaminophenoxy)benzaldehyde | 1.27 g | CS(=O)(=O)NC1=CC=C(OC2=CC=C(C=O)C=C2)C=C1 | C14H13NO4S
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
reactant | N,N-bis(2-chloroethyl)amine | 856 mg | ClCCNCCCl | C4H9Cl2N
reactant | Sodium triacetoxyborohydride | 31.39 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-(4-(4-bis(2-chloroethyl)aminomethylphenoxy)phenyl)methanesulfonamide | 790 mg | ClCCN(CCCl)CC1=CC=C(OC2=CC=C(C=C2)NS(=O)(=O)C)C=C1 | C18H22Cl2N2O3S
